*----------------------------------------------------------------------
* SPICE Model generated by Murata Manufacturing Co., Ltd.
* Copyright(C) Murata Manufacturing Co., Ltd.
* Description :1005M(0402)/X7S(-55to125[deg])/4.70e-01[uF]/10[V]
* Murata P/N :GCM155C71A474ME35
* Property : C = 4.70e-01[uF]
* Data Generated on Jan 30, 2024
*----------------------------------------------------------------------
* Applicable Conditions:
*   Frequency Range = 100[Hz]-6[GHz]
*   Temperature = 25 degC
*   DC Bias Voltage = 0V
*   Small Signal Operation
*----------------------------------------------------------------------
.SUBCKT GCM155C71A474ME35 Port1 Port2
C01 Port1 N01 3.65e-07
R01 Port1 N01 1.06e+08
L02 N01 N02 1.64e-10
R03 N02 N03 2.94e-02
C04 N03 N04 1.35e-05
R04 N03 N04 2.94e+02
C05 N04 N05 2.37e-05
R05 N04 N05 2.45e+01
C06 N05 N06 2.08e-05
R06 N05 N06 4.06e+00
C07 N06 N07 1.90e-05
R07 N06 N07 5.11e-01
C08 N07 N08 1.03e-04
R08 N07 N08 1.86e-01
C09 N08 N09 1.39e-05
R09 N08 N09 1.14e-01
C10 N09 N10 5.98e-06
R10 N09 N10 2.58e-02
L11 N10 N11 5.35e-11
R11 N10 N11 3.09e-01
L12 N11 N12 1.10e-10
R12 N11 N12 5.23e-02
C13 N12 Port2 4.59e-12
L13 N12 Port2 4.66e-11
R13 N12 Port2 7.49e+00
.ENDS GCM155C71A474ME35
